US05366993
B. 1-(3-phenylpropyl)cyclododecane
To 6.4 g (22.5 mmoles) of 1-(3-phenyl-1-propenyl)cyclododecane in 50 mL of ethanol is added 0.48 g of 10% palladium on carbon. The reaction mixture is subjected to hydrogen (50 psi) atmosphere using a Paar hydrogenerator and shaken overnight after which time no starting material is evident by TLC. The reaction mixture is filtered through Celite which is washed with additional ethanol. The filtrate is evaporated and the crude residue (5.8 g) is used directly for the next step: NMR (CDCl3) δ1.2-1.4 (m, 10H), 1.6 (m, 2H), 2.55 (t, 2H, J=8 Hz), 7.2 (m, 5H).

reactant | 1-(3-phenyl-1-propenyl)cyclododecane | 22.5 mmoles, 6.4 g | C1(=CC=CC=C1)CC=CC1CCCCCCCCCCC1 | C21H32
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.48 g | [Pd] | Pd
product | 1-(3-phenylpropyl)cyclododecane | C1(=CC=CC=C1)CCCC1CCCCCCCCCCC1 | C21H34
